US07915250B2
1-[1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]ethyl 2,4,6-tris(1-methylethyl)benzenesulfonate (194 mg, 0.256 mmol) was dissolved in tetrahydrofuran (2 mL) and was cooled to 0° C. Sodium hydride (60 wt % dispersion in oil; 31 mg, 0.775 mmol) was added and the mixture was stirred at 0° C. for 15 minutes. The mixture was quenched with saturated sodium bicarbonate solution and partitioned with ethyl acetate. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, 50% ethyl acetate in hexanes) gave 2,3-difluoro-N-(2-fluoro-4-iodophenyl)-6-[(2-methyl-1-oxa-5-azaspiro[2.3]hex-5-yl)carbonyl]aniline (120 mg, 0.253 mmol, 99% yield): MS (EI) for C18H14F3IN2O2: 475 (MH+).

reactant | 1-[1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]ethyl 2,4,6-tris(1-methylethyl)benzenesulfonate | 0.256 mmol, 194 mg | CC(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)OC(C)C1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | C33H38F3IN2O5S
reactant | Sodium hydride | 0.775 mmol, 31 mg | [H-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2,3-difluoro-N-(2-fluoro-4-iodophenyl)-6-[(2-methyl-1-oxa-5-azaspiro[2.3]hex-5-yl)carbonyl]aniline | 0.253 mmol, 120 mg, 99% yield | FC1=C(NC2=C(C=C(C=C2)I)F)C(=CC=C1F)C(=O)N1CC2(C(O2)C)C1 | C18H14F3IN2O2
